US04181661
A solution of 13 g. of diketene in 100 ml. of ethanol was added dropwise to an ice-cold solution of 18 g. of 2-imino-3-methylthiazolidine in 100 ml. of ethanol. The mixture was allowed to warm spontaneously to room temperature and then evaporated to dryness. The residue was triturated with ether, collected on a filter and dried in a dessicator to give 2-acetoacetylimino-3-methylthiazolidine, m.p. 43°-45° C.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | 2-imino-3-methylthiazolidine | N=C1SCCN1C | C4H8N2S
solvent | ethanol | C(C)O | C2H6O
product | 2-acetoacetylimino-3-methylthiazolidine | C(CC(=O)C)(=O)N=C1SCCN1C | C8H12N2O2S
